US04431653
A solution of the dihydrochloride salt of 4-(1H-imidazol-2-yl)piperidine (0.448 g, 0.002 M) in methanol (15 ml) which contained sodium methoxide (0.004 M) was stirred at room temperature for about 5 minutes and dimethylformamide dimethyl acetal (10 ml) was added and the mixture was heated at 80° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed to give 4-(1H-imidazol-2-yl)-1-piperidine carboxaldehyde dimethylacetal. This acetal was then dissolved in 6 ml of chloroform. To a mixture of 6-aminopenicillanic acid (0.388 g, 0.0018 M) and diisopropylethylamine (0.2 ml) in CHCl3 (20 ml) was added the chloroform solution of the above piperidine carboxaldehyde dimethylacetal at 0° C. The reaction was stirred at 0° C. for 1 hr and room temperature for 3 hrs. After this period, the solvent was removed and the residue dissolved in water (15 ml). The aqueous solution, washed with ethylacetate, was acidified to pH 3 with dil. HCl and purified on Sephadex LH 20 to give [2S-(2alpha,5alpha,6beta)]-6-[[[4-(1H-imidazol-2-yl)-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride trihydrate (0.245 g, 26% yield).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4-(1H-imidazol-2-yl)piperidine | 0.002 M, 0.448 g | N1C(=NC=C1)C1CCNCC1 | C8H13N3
reactant | sodium methoxide | 0.004 M | C[O-].[Na+]
reactant | dimethylformamide dimethyl acetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 15 ml | CO | CH4O
product | 4-(1H-imidazol-2-yl)-1-piperidine carboxaldehyde dimethylacetal | COC(N1CCC(CC1)C=1NC=CN1)OC | C11H19N3O2
